US06730674B2
A mixture of 3-(3-chloro-benzenesulfonyl)-6-methoxy-pyridazine (148 mg), dioxane (2 mL) and concentrated hydrochloric acid (0.5 mL) was prepared and refluxed for 30 minutes. The reaction mixture was then evaporated to dryness and the residue was extracted with ethyl acetate (2×10 mL). The ethyl acetate mixture was collected, dried over anhydrous sodium sulfate, filtered and the filtrate was evaporated to dryness to afford 6-(3-chloro-benzenesulfonyl)-2H-pyridazin-3-one as white solid (38%, 61 mg); mp, 222-223° C.: NMR, 7.11 (d, 1H), 7.74 (t, 1H), 7.86-8.04 (m, 4H), 13.86 (s, 1H).

reactant | 3-(3-chloro-benzenesulfonyl)-6-methoxy-pyridazine | 148 mg | ClC=1C=C(C=CC1)S(=O)(=O)C=1N=NC(=CC1)OC | C11H9ClN2O3S
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 6-(3-chloro-benzenesulfonyl)-2H-pyridazin-3-one | 61 mg, 38% | ClC=1C=C(C=CC1)S(=O)(=O)C=1C=CC(NN1)=O | C10H7ClN2O3S
